US05506235
In a 100 mL three-neck round bottom flask under a nitrogen atmosphere and with magnetic stirring, a solution of 1.0 g (4.8 mmol) of 4-chloro-6-methoxy-2-methylquinoline and 10 mL of n-octylamine was heated under reflux for three hours. Upon cooling to room temperature, the reaction mixture formed a glassy solid which was filtered. This was triturated under isopropyl ether filtered and washed with additional ether. The solid was stirred with a mixture of water and ethyl acetate; insolubles were filtered and discarded; the ethyl acetate layer eventually furnished 500 mg of 6-methoxy-2-methyl-N-octylquinolin-4-amine hydrochloride: m.p. 178°-179° C. Without further purification, a solution of 350 mg (1.04 mmol) of this material and 42 mL of 48% hydrobromic acid was heated reflux for 18 hours. Upon cooling, the reaction solution gave a precipitate which was filtered. The filtrate was evaporated to furnish a solid residue. The combined solids were recrystallized from hot water to give 45 mg (12%) of 2-methyl-4-octylaminoquinolin-6-ol hydrobromide hemihydrate: m.p. 176°-178° C.

reactant | 4-chloro-6-methoxy-2-methylquinoline | 4.8 mmol, 1.0 g | ClC1=CC(=NC2=CC=C(C=C12)OC)C | C11H10ClNO
reactant | hydrobromic acid | 42 mL | Br | BrH
reactant | n-octylamine | 10 mL | C(CCCCCCC)N | C8H19N
product | 2-methyl-4-octylaminoquinolin-6-ol hydrobromide hemihydrate | 45 mg, 12% | O.Br.CC1=NC2=CC=C(C=C2C(=C1)NCCCCCCCC)O.CC1=NC2=CC=C(C=C2C(=C1)NCCCCCCCC)O.Br | InChI=1S/2C18H26N2O.2BrH.H2O/c2*1-3-4-5-6-7-8-11-19-18-12-14(2)20-17-10-9-15(21)13-16(17)18;;;/h2*9-10,12-13,21H,3-8,11H2,1-2H3,(H,19,20);2*1H;1H2
